US04027023
Ethyl 6-nitrocinnolin-3-yl carboxylate (150 mg.) was dissolved in ethanol (20 ml.), and 30% w/w palladium on charcoal catalyst (20 mg.) was added. The solution was shaken in an atmosphere of hydrogen at room temperature and atmospheric pressure until the theoretical uptake had taken place. The catalyst was filtered off and the ethanol solution was evaporated to dryness, yielding a yellow solid. This solid was purified by chromatography on a column of Kieselgel 60 (E. Merck, Darmstadt) using ethyl acetate as eluent. The appropriate fractions were combined and evaporated to dryness to give ethyl 6-aminocinnolin-3-yl carboxylate, m.p. 204°-206° C.

reactant | Ethyl 6-nitrocinnolin-3-yl carboxylate | 150 mg | [N+](=O)([O-])C=1C=C2C=C(N=NC2=CC1)C(=O)OCC | C11H9N3O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 20 mg | [Pd] | Pd
product | ethyl 6-aminocinnolin-3-yl carboxylate | NC=1C=C2C=C(N=NC2=CC1)C(=O)OCC | C11H11N3O2
